US06897231B2
A. 1-(5-(1H-1,2,3,4-Tetraazol-5-yl-)(1H-indazol-3-yl))-3-(2-morpholin-4-ylethoxy)benzene
A mixture of 3-(3-hydroxyphenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (400 mg, 1.25 mmol), triphenylphosphine (Ph3P, 1.31 g, 5.00 mmol, 4.00 equiv.), 4.00 mL THF, 4-(2-hydroxyethyl)morpholine (656 mg, 5.00 mmol, 4.00 equiv.), and diethyl azodicarboxylate (DEAD, 871 mg, 5.00 mmol, 4.00 equiv.) were stirred at room temperature for 3 days. The reaction was diluted with EtOAc and washed with 2×6.0 N aq. HCl. The combined aqueous layers were extracted with 2×EtOAc. The acidic aqueous layer was allowed to stand at room temperature for 5 h, and then added to enough 6.0 N aq. NaOH such that the final pH>12.0. The aqueous layer was extracted with EtOAc. The organic layer was dried (Na2SO4), filtered and concentrated. Purification by silica gel chromatography using 0-5% MeOH in EtOAc as eluent afforded an oil. A mixture of the oil (1.25 mmol), azidotributyltin (Bu3SnN3, 2.35 g, 7.08 mmol, 5.66 equiv.), and 13.5 mL toluene was refluxed for 17.5 h and concentrated to an oil. To the oil was added 6.5 mL of dioxane and 6.5 mL of 6.0 N aq. HCl. The mixture was stirred at room temperature for 4 h and then added to 25 mL of 6.0 N aq. NaOH. The mixture was extracted with 3× hexanes, and 3×Et2O. The aqueous layer was filtered to remove particulates. The pH was adjusted with 6.0 N aq. HCl to give maximum visual turbidity (approximately pH 5.0-5.5) and the mixture was extracted with 2×EtOAc. The combined organics were dried (Na2SO4), filtered, and concentrated. Purification by silica gel chromatography using 0-20% MeOH in EtOAc as eluents afforded the title compound (43.1 mg, 8.82% yield): 1H NMR (DMSO-d6) δ 13.54 (s, 1H), 8.72 (s, 1H), 8.10 (d, 1H), 7.77 (d, 1H), 7.61 (d, 1H), 7.52-7.45 (m, 2H), 7.06 (d, 1H), 4.23 (t, 2H), 3.65-3.56 (m, 4H), 2.82 (t, 2H), 2.52-2.45 (m, 4H); ES-MS (m/z) 392 [M+1]+.

reactant | 3-(3-hydroxyphenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 1.25 mmol, 400 mg | OC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C19H17N3O2
reactant | triphenylphosphine | 5.00 mmol, 1.31 g, 4.00 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(2-hydroxyethyl)morpholine | 5.00 mmol, 656 mg, 4.00 equiv. | OCCN1CCOCC1 | C6H13NO2
reactant | diethyl azodicarboxylate | 5.00 mmol, 871 mg, 4.00 equiv. | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | azidotributyltin | 7.08 mmol, 2.35 g, 5.66 equiv. | N(=[N+]=[N-])[Sn](CCCC)(CCCC)CCCC
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | 13.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 4.00 mL | C1CCOC1 | C4H8O
product | 1-(5-(1H-1,2,3,4-Tetraazol-5-yl-)(1H-indazol-3-yl))-3-(2-morpholin-4-ylethoxy)benzene | 43.1 mg, 8.82% yield | N1N=NN=C1C=1C=C2C(=NNC2=CC1)C1=CC(=CC=C1)OCCN1CCOCC1 | C20H21N7O2
